US04788186
N-(3-chloropropyl)-N-methyl-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-amine
To 2.8 g of N-(3-hydroxypropyl)-N-methyl-3-(4-methoxy phenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-amine (the compound of example 32) dissolved in chloroform (30 ml) are added a few drops of N,N-dimethylformamide and then 1.1 ml of thionyl chloride in chloroform (5 ml). The mixture is refluxed for about 5 hours. After cooling to room temperature, the mixture is concentrated to dryness and the residue is taken up with cold aqueous sodium bicarbonate. The product of the title is collected after filtration and crystallized from ethanol. Yield 85%. M.p. 113°-115° C.

reactant | N-(3-hydroxypropyl)-N-methyl-3-(4-methoxy phenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-amine | 2.8 g | OCCCN(C1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC)C | C20H21N5O2
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(3-chloropropyl)-N-methyl-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazin-6-amine | Yield 85% | ClCCCN(C1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC)C | C20H20ClN5O
